US09216968B2
To a solution of 2-(dimethylamino)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid (50 mg) and HATU (82 mg) in DMF (1 mL), were added N,N-diisopropylethylamine (88 μL) and 3-chloro-4-methylaniline (26 μL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, washed sequentially with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (65 mg) as white powder. This was suspended in MeOH (1.5 mL), 2N hydrogen chloride/MeOH (1 Eq) was added, and it was stirred and concentrated. The residue was triturated in diethyl ether, and the precipitate was collected by filtration and dried to obtain the titled compound (40 mg) as white powder.

reactant | 2-(dimethylamino)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 50 mg | CN(C1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C18H15F3N4O3
reactant | HATU | 82 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 88 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-4-methylaniline | 26 μL | ClC=1C=C(N)C=CC1C | C7H8ClN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 65 mg | ClC=1C=C(C=CC1C)NC(=O)C1=CC(=CC=2NC(=NC21)N(C)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C25H21ClF3N5O2
